US04235912
0.6 g of acetic acid are dissolved in 25 ml of acetonitrile with stirring. The solution is cooled to -15° C., and 1.39 ml of isobutyl chloroformate and 1.1 ml of N-methyl-morpholine are added. After 5 minutes of stirring a solution of 2.8 g of 1,6-dimethyl-8β-hydrazinomethyl-ergoline in 10 ml of acetonitrile is added to the mixture. The mixture is slowly (within 30 minutes) warmed to room temperature, stirred at room temperature for 2 hours, then evaporated in vacuo. The residue is dissolved in 200 ml of chloroform, and 100 ml of water are added. The pH of the aqueous phase is adjusted to 8 with 10% aqueous ammonia, and the mixture is shaken. The organic phase is separated, and the aqueous phase is extracted thrice with 100 ml of chloroform. The chloroform fractions are combined and evaporated to dryness in vacuo. The residue is subjected to column chromatography in order to remove the occasional impurities. 60 g of silica gel are used as adsorbent, and the column is eluted with a 30:0.3:9 mixture of chloroform, water and methanol. The effluent is analyzed by thin layer chromatography. The fractions containing a substance with an Rf value of 0.75 are combined, evaporated in vacuo, and the residue is crystallized from alcohol. 1.9 g (60.4%) of 1,6-dimethyl-8β-[(N'-acetyl-hydrazino)-methyl]-ergoline are obtained; m.p.: 190°-192° C., [α]D20 =-29.7° (c=1, in 96% ethanol).

reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | isobutyl chloroformate | 1.39 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl-morpholine | 1.1 ml | CN1CCOCC1 | C5H11NO
reactant | 1,6-dimethyl-8β-hydrazinomethyl-ergoline | 2.8 g | CN1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)CNN)C | C17H24N4
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,6-dimethyl-8β-[(N'-acetyl-hydrazino)-methyl]-ergoline | 1.9 g, 60.4% | CN1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)CNNC(C)=O)C | C19H26N4O
